US07129235B2
methyl 1-benzyl-4-hydroxy-4-piperidinecarboxylate
1-Benzyl-4-hydroxy-4-piperidinecarbonitrile (30.0 g, 118 mmol) in methanol (590 mL) and concentrated HCl (590 mL) was heated at reflux for 18 hours. The product was obtained following chromatography (SiO2, ethyl acetate:hexane, 1:4). MS (EI, M+H)+250.

reactant | 1-Benzyl-4-hydroxy-4-piperidinecarbonitrile | 118 mmol, 30.0 g | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)O | C13H16N2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hexane | CCCCCC | C6H14
reactant | methanol | 590 mL | CO | CH4O
solvent | HCl | 590 mL | Cl | ClH
product | methyl 1-benzyl-4-hydroxy-4-piperidinecarboxylate | C(C1=CC=CC=C1)N1CCC(CC1)(C(=O)OC)O | C14H19NO3
